US07482341B2
(6-Methyl-pyridin-2-yl)-carbamic acid tert-butyl ester (1.04 g, Pitts, J. Med. Chem., 43, 2000, 27) under an argon atmosphere in THF (40 mL) was cooled to −20° C. and treated dropwise at −20° C. with 5.5 mL of a 2 M solution of lithium diisopropylamide in THF/heptane/ethylbenzene (Fluka). The solution was stirred 1 h at −20° C., cooled to −70° C. and then treated with an access of dry ice. The mixture was allowed to warm to 10° C. and partitioned between aqueous 1N HCl and AcOEt, the layers were separated, the organic layer dried over Na2SO4, filtered, evaporated and the residue was purified by flash chromatography (MeOH/CH2Cl2 0-15%). The obtained material was triturated with ether, the crystalline solid obtained was filtered off by suction and dried in vacuo to give (6-tert-butoxycarbonylamino-pyridin-2-yl)-acetic acid as an off-white solid (0.3 g). MS (ESI−): 251.1 ([M−H]−).

reactant | (6-Methyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 1.04 g | C(C)(C)(C)OC(NC1=NC(=CC=C1)C)=O | C11H16N2O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF heptane ethylbenzene | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
product | (6-tert-butoxycarbonylamino-pyridin-2-yl)-acetic acid | 0.3 g | C(C)(C)(C)OC(=O)NC1=CC=CC(=N1)CC(=O)O | C12H16N2O4
